US05254579
Thionation of N-(5-oxo-L-prolyl)-L-cysteine methyl ester with the Lawesson's reagent and the subsequent alkali hydrolysis with two sodium hydroxide equivalents in aqueous solution yields N-(5-thioxo-L-prolyl)-L-cysteine.

reactant | N-(5-oxo-L-prolyl)-L-cysteine methyl ester | COC([C@@H](NC([C@H]1NC(CC1)=O)=O)CS)=O | C9H14N2O4S
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(5-thioxo-L-prolyl)-L-cysteine | S=C1CC[C@H](N1)C(=O)N[C@@H](CS)C(=O)O | C8H12N2O3S2
